### PR TITLE
[Merged by Bors] - feat: define the index of a linear map

### PR DESCRIPTION
**Pull request by ocfnash**
And add some basic API.

Written at the ICERM workshop "Techniques and Tools for the Formalization of Analysis".

Co-authored-by: Jon Bannon <jbannon@siena.edu>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 1]
```diff
@@ -775,3 +775,23 @@ alias alternatingSum_eq_finset_sum := alternatingSum_eq_finsetSum
 alias alternatingProd_eq_finset_prod := alternatingProd_eq_finsetProd
 
 end List
+
+lemma Fin.sum_neg_one_pow_eq_zero {α : Type*} [AddCommGroup α]
+    {n : ℕ} (d : Fin (n + 2) → α) (r : Fin (n + 1) → α)
+    (h_first : d 0 = r 0)
+    (h_mid : ∀ i : Fin n, d i.succ.castSucc = r i.castSucc + r i.succ)
+    (h_last : d (Fin.last _) = r (Fin.last _)) :
+    ∑ i, (-1) ^ i.val • d i = 0 := by
```
Comment (ADedecker) [inline Mathlib/Algebra/BigOperators/Fin.lean:789]: Would you mind adding a docstring with an explanation of the statement and a mention of what it's used for (I know we usually don't do the later, but here I believe it might help making sense of the statement) ?

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 2]
```diff
@@ -775,3 +775,23 @@ alias alternatingSum_eq_finset_sum := alternatingSum_eq_finsetSum
...
+      d 0 +
+      ∑ i : Fin n, (-1 : ℤ) ^ (i.val + 1) • (d (Fin.castSucc i).succ) +
+      (-1 : ℤ) ^ (n + 1) • d (Fin.last (n + 1)) := by
+    rw [Fin.sum_univ_succ, Fin.sum_univ_castSucc]
+    simp [add_assoc]
+  have h₂ : ∑ i : Fin n, (-1 : ℤ) ^ (i.val + 1) • (r (Fin.castSucc i) + r (Fin.succ i)) =
+      ∑ i : Fin n, (-1 : ℤ) ^ (i.val + 1) • r (Fin.castSucc i) +
+      ∑ i : Fin n, (-1 : ℤ) ^ (i.val + 1) • r (Fin.succ i) := by
+    simp_rw [zsmul_add, Finset.sum_add_distrib]
+  have h₃ := Fin.sum_univ_castSucc fun i ↦ (-1 : ℤ) ^ (i : ℕ) • r i
```
Comment (ADedecker) [inline Mathlib/Algebra/BigOperators/Fin.lean]:
```suggestion
  have h₃ := Fin.sum_univ_castSucc fun i ↦ (-1 : ℤ) ^ i.val • r i
```
(nit; for consistency)

File: Mathlib/Algebra/Exact/Sequence.lean [hunk 3]
```diff
@@ -0,0 +1,144 @@
...
+universe u₀ u₁ u₂ u₃ u₄ u₅
+
+namespace Module
+
+open Function
+
+variable {k : Type*} [DivisionRing k]
+
+/-- The Euler characteristic of a finite exact sequence is the alternating sum of dimensions of the
+terms. -/
```
Comment (ADedecker) [inline Mathlib/Algebra/Exact/Sequence.lean]: I find this docstring not very useful to understand the result, because "The Euler characteristic of a finite exact sequence" is really a convoluted way to say "zero". What about the following ?
```suggestion
/-- In a finite length exact sequence (starting and ending with zero) of finite dimensional
vector spaces, the alternating sums of the dimensions of the terms is zero.

Morally, this can be seen as the combination of "the Euler characteristic of an exact 
sequence is zero" and "the Euler characteristic of a finite chain complex is the alternating
sum of the dimensions of the terms". -/
```
(Unless I understood something wrong)

File: Mathlib/Algebra/Exact/Sequence.lean
Comment (ADedecker) [inline Mathlib/Algebra/Exact/Sequence.lean:1]: I think this would deserve a more specific name, I'd say either `AlternatingSum` or `EulerChar` ?

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 4]
```diff
@@ -0,0 +1,130 @@
...
+variable {M N : Type*} [AddCommGroup M] [AddCommGroup N]
+
+section Ring
+
+variable {R : Type*} [Ring R] [Module R M] [Module R N] (f : M →ₗ[R] N)
+
+/-- The index of a linear map.
+
+In the case that either the kernel or cokernel has infinite rank, the value is junk. -/
+public def index : ℤ := finrank R f.ker - finrank R (N ⧸ f.range)
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/LinearMap/Index.lean:40]: `expose`?

File: Mathlib/Algebra/Exact/Sequence.lean [hunk 5]
```diff
@@ -0,0 +1,144 @@
...
+  | 4 => inferInstanceAs (FiniteDimensional k V₄)
+  | 5 => inferInstanceAs (FiniteDimensional k V₅)
+  letI fs (i : Fin 5) : Vs i.castSucc →ₗ[k] Vs i.succ := match i with
+  | 0 => f₀
+  | 1 => f₁
+  | 2 => f₂
+  | 3 => f₃
+  | 4 => f₄
+  simpa [Fin.sum_univ_six] using Module.sum_neg_one_pow_finrank_eq_zero_of_exact Vs fs inj
+    (fun i ↦ by fin_cases i; exacts [exact₁, exact₂, exact₃, exact₄]) surj
```
Comment (ADedecker) [inline Mathlib/Algebra/Exact/Sequence.lean:82]: This is quite faster, because we avoid the typeclass inference where an `assumption` works. But if you think we shouldn't do this kind of optimisation that's fine for me.
```suggestion
private lemma sum_neg_one_pow_finrank_eq_zero_of_exact_six_aux {V₀ V₁ V₂ V₃ V₄ V₅ : Type u₀}
    [AddCommGroup V₀] [Module k V₀] [FiniteDimensional k V₀]
    [AddCommGroup V₁] [Module k V₁] [FiniteDimensional k V₁]
    [AddCommGroup V₂] [Module k V₂] [FiniteDimensional k V₂]
    [AddCommGroup V₃] [Module k V₃] [FiniteDimensional k V₃]
    [AddCommGroup V₄] [Module k V₄] [FiniteDimensional k V₄]
    [AddCommGroup V₅] [Module k V₅] [FiniteDimensional k V₅]
    (f₀ : V₀ →ₗ[k] V₁) (f₁ : V₁ →ₗ[k] V₂) (f₂ : V₂ →ₗ[k] V₃) (f₃ : V₃ →ₗ[k] V₄) (f₄ : V₄ →ₗ[k] V₅)
    (inj : Injective f₀)
    (exact₁ : Exact f₀ f₁)
    (exact₂ : Exact f₁ f₂)
    (exact₃ : Exact f₂ f₃)
    (exact₄ : Exact f₃ f₄)
    (surj : Surjective f₄) :
    (finrank k V₀ : ℤ) - finrank k V₁ + finrank k V₂ -
      finrank k V₃ + finrank k V₄ - finrank k V₅ = 0 := by
  letI Vs := ![V₀, V₁, V₂, V₃, V₄, V₅]
  letI (i : Fin 6) : AddCommGroup (Vs i) := match i with
  | 0 => ‹_›
  | 1 => ‹_›
  | 2 => ‹_›
  | 3 => ‹_›
  | 4 => ‹_›
  | 5 => ‹_›
  letI (i : Fin 6) : Module k (Vs i) := match i with
  | 0 => ‹_›
  | 1 => ‹_›
  | 2 => ‹_›
  | 3 => ‹_›
  | 4 => ‹_›
  | 5 => ‹_›
  have (i : Fin 6) : FiniteDimensional k (Vs i) := match i with
  | 0 => ‹_›
  | 1 => ‹_›
  | 2 => ‹_›
  | 3 => ‹_›
  | 4 => ‹_›
  | 5 => ‹_›
  letI fs (i : Fin 5) : Vs i.castSucc →ₗ[k] Vs i.succ := match i with
  | 0 => f₀
  | 1 => f₁
  | 2 => f₂
  | 3 => f₃
  | 4 => f₄
  simpa [Fin.sum_univ_six] using Module.sum_neg_one_pow_finrank_eq_zero_of_exact Vs fs inj
    (fun i ↦ by fin_cases i; exacts [exact₁, exact₂, exact₃, exact₄]) surj
```

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 6]
```diff
@@ -0,0 +1,130 @@
...
+
+open Function Module
+
+variable {M N : Type*} [AddCommGroup M] [AddCommGroup N]
+
+section Ring
+
+variable {R : Type*} [Ring R] [Module R M] [Module R N] (f : M →ₗ[R] N)
+
+/-- The index of a linear map.
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/LinearMap/Index.lean]: Could you also mention the sign convention here?

**Review by ADedecker — COMMENTED** [review]
Thanks a lot Jon and Oliver, this looks very good!

File: Mathlib/Algebra/Module/LinearMap/Index.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/LinearMap/Index.lean:40]: I have opted to add a lemma `index_eq_finrank_sub` instead as I think this is preferable to using `expose` but I'm happy to add the attribute if you're not convinced.

File: Mathlib/Algebra/Exact/Sequence.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Exact/Sequence.lean]: I agree the original statement was confusing: the alternating sum is the definition of the Euler characteristic so the doc string was vacuous.

I have opted for something shorter than what you suggest but I can switch to your words if you still prefer.

File: Mathlib/Algebra/Exact/Sequence.lean
Comment (ocfnash) [reply Mathlib/Algebra/Exact/Sequence.lean:1]: My intention is that this file could serve a more general purpose. E.g., it could also contain results about general API for exact sequences. As always, happy to rename if you are not convinced.

File: Mathlib/Algebra/Exact/Sequence.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/Algebra/Exact/Sequence.lean]: Just to explain whay I suggested: for me the *definition* of the Euler characteristic of a complex would be the alternating sum of the Betti numbers, which is why I view this result as the combination of "other way to compute the Euler characteristic when everything is finite" + "if you're exact then all your Betti numbers are zero".

But I'm fine with the short sentence, people can read the statement after all.

File: Mathlib/Algebra/Exact/Sequence.lean [hunk 7]
```diff
@@ -0,0 +1,124 @@
...
+    [AddCommGroup V₃] [Module k V₃] [FiniteDimensional k V₃]
+    [AddCommGroup V₄] [Module k V₄] [FiniteDimensional k V₄]
+    [AddCommGroup V₅] [Module k V₅] [FiniteDimensional k V₅]
+    (f₀ : V₀ →ₗ[k] V₁) (f₁ : V₁ →ₗ[k] V₂) (f₂ : V₂ →ₗ[k] V₃) (f₃ : V₃ →ₗ[k] V₄) (f₄ : V₄ →ₗ[k] V₅)
+    (inj : Injective f₀)
+    (exact₁ : Exact f₀ f₁)
+    (exact₂ : Exact f₁ f₂)
+    (exact₃ : Exact f₂ f₃)
+    (exact₄ : Exact f₃ f₄)
+    (surj : Surjective f₄) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Exact/Sequence.lean:69]: nit
```suggestion
    (inj : Injective f₀) (exact₁ : Exact f₀ f₁) (exact₂ : Exact f₁ f₂)
    (exact₃ : Exact f₂ f₃) (exact₄ : Exact f₃ f₄) (surj : Surjective f₄) :
```

File: Mathlib/Algebra/Exact/Sequence.lean [hunk 8]
```diff
@@ -0,0 +1,124 @@
...
+    {V₃ : Type u₃} [AddCommGroup V₃] [Module k V₃] [FiniteDimensional k V₃]
+    {V₄ : Type u₄} [AddCommGroup V₄] [Module k V₄] [FiniteDimensional k V₄]
+    {V₅ : Type u₅} [AddCommGroup V₅] [Module k V₅] [FiniteDimensional k V₅]
+    (f₀ : V₀ →ₗ[k] V₁) (f₁ : V₁ →ₗ[k] V₂) (f₂ : V₂ →ₗ[k] V₃) (f₃ : V₃ →ₗ[k] V₄) (f₄ : V₄ →ₗ[k] V₅)
+    (inj : Injective f₀)
+    (exact₁ : Exact f₀ f₁)
+    (exact₂ : Exact f₁ f₂)
+    (exact₃ : Exact f₂ f₃)
+    (exact₄ : Exact f₃ f₄)
+    (surj : Surjective f₄) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Exact/Sequence.lean:103]: nit

```suggestion
    (inj : Injective f₀) (exact₁ : Exact f₀ f₁) (exact₂ : Exact f₁ f₂)
    (exact₃ : Exact f₂ f₃) (exact₄ : Exact f₃ f₄) (surj : Surjective f₄) :
```

Comment (ADedecker) [reply Mathlib/Algebra/Exact/Sequence.lean:103]: I disagree, this is really a list of similar assumptions so it's better to write it as such imo

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 9]
```diff
@@ -0,0 +1,134 @@
...
+variable {R : Type*} [Ring R] [Module R M] [Module R N] (f : M →ₗ[R] N)
+
+/-- The index of a linear map with sign convention `index = dim ker - dim coker`.
+
+In the case that either the kernel or cokernel has infinite rank, the value is junk. -/
+public def index : ℤ := finrank R f.ker - finrank R (N ⧸ f.range)
+
+variable {f}
+
+public lemma index_eq_finrank_sub :
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/LinearMap/Index.lean:44]: How about calling this `index_def`? This name is fine though
```suggestion
public lemma index_def :
```

File: Mathlib/Algebra/Exact/Sequence.lean (hunk 8 above)
Comment (themathqueen) [reply Mathlib/Algebra/Exact/Sequence.lean:103]: Fair enough. Ignore this then

File: Mathlib/Algebra/Module/LinearMap/Index.lean (hunk 9 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/LinearMap/Index.lean:44]: Now that we don't `expose` I like the idea of moving away from the `_def` naming pattern.

File: Mathlib/Algebra/Exact/Sequence.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Exact/Sequence.lean]: OK great, it seems we've converged.

FWIW for me the Euler characteristic is just an alternating sum of dimensions of a (finite) ordered set of spaces. In particular, it does not need a complex. Of course if you have a complex then you can take its homology and so get second ordered set of spaces and then rank-nullity tells us that the Euler characteristic of the homology is the same as that of the complex we started with. But for me, the definition is just the alternating sum.

Comment (ocfnash) [reply Mathlib/Algebra/Exact/Sequence.lean]: (This if course generalises the lemma here: all homology groups vanish by exactness.)

File: Mathlib/Algebra/Exact/Sequence.lean
Comment (ADedecker) [reply Mathlib/Algebra/Exact/Sequence.lean:1]: My gut feeling was that, if we end up populating this `sequence` file, we would end up splitting this part to a separate file. But after a bit of thinking I'm not sure anymore whether there'd be enough material to justify a split, so let's keep this as is.

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 10]
```diff
@@ -775,3 +775,28 @@ alias alternatingSum_eq_finset_sum := alternatingSum_eq_finsetSum
 alias alternatingProd_eq_finset_prod := alternatingProd_eq_finsetProd
 
 end List
+
+/-- This is a classic "telescoping sum" lemma. Simplifying very slightly it says:
+`(r₀ - 0) + (r₁ - r₀) + (r₂ - r₁) + ⋯ + (rₙ - rₙ₋₁) + (0 - rₙ) = 0`.
```
Comment (ADedecker) [inline Mathlib/Algebra/BigOperators/Fin.lean]:
```suggestion
/-- This is a classic "telescoping sum" lemma. It says:
`r₀ - (r₀ + r₁) + (r₁ + r₂) - (r₂+ r₃) + ⋯ ± (rₙ₋₁ + rₙ) ∓ rₙ = 0`.
```

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 11]
```diff
@@ -0,0 +1,134 @@
...
+  nontriviality R
+  rw [index, range_id]
+  simp [finrank_eq_zero_of_subsingleton]
+
+@[simp] public lemma _root_.LinearEquiv.index_eq_zero {e : M ≃ₗ[R] N} :
+    e.toLinearMap.index = 0 := by
+  nontriviality R
+  have := index_of_injective e.injective
+  have := index_of_surjective e.surjective
+  grind
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/LinearMap/Index.lean]:
```suggestion
  lia
```
(I don't know what our policy is here, but this seems better to me)

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 12]
```diff
@@ -0,0 +1,134 @@
...
+  rw [index, index, ker_neg, range_neg]
+
+public lemma index_eq_of_finiteDimensional [FiniteDimensional k M] [FiniteDimensional k N] :
+    f.index = finrank k M - finrank k N := by
+  -- `0 → f.ker → M → N → f.coker → 0`
+  rw [index]
+  have h₁ := f.range.finrank_quotient_add_finrank
+  have h₂ := f.quotKerEquivRange.finrank_eq
+  have h₃ := f.ker.finrank_quotient_add_finrank
+  grind
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/LinearMap/Index.lean]:
```suggestion
  lia
```
Same

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 13]
```diff
@@ -0,0 +1,134 @@
...
+
+public lemma index_of_injective [Nontrivial R] (hf : Injective f) :
+    f.index = - finrank R (N ⧸ f.range) := by
+  simpa [LinearMap.index] using LinearMap.ker_eq_bot.2 hf ▸ finrank_bot _ _
+
+variable [StrongRankCondition R]
+
+public lemma index_of_surjective (hf : Surjective f) :
+    f.index = finrank R f.ker := by
+  rw [LinearMap.index, LinearMap.range_eq_top.mpr hf]
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/LinearMap/Index.lean]:
```suggestion
  rw [index, range_eq_top.mpr hf]
```

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 14]
```diff
@@ -0,0 +1,134 @@
...
+  simp [index]
+
+@[simp] public lemma index_zero :
+    (0 : M →ₗ[R] N).index = finrank R M - finrank R N := by
+  rw [index, ker_zero, range_zero]
+  simpa using (Submodule.quotEquivOfEqBot _ rfl).finrank_eq
+
+public lemma index_of_injective [Nontrivial R] (hf : Injective f) :
+    f.index = - finrank R (N ⧸ f.range) := by
+  simpa [LinearMap.index] using LinearMap.ker_eq_bot.2 hf ▸ finrank_bot _ _
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/LinearMap/Index.lean]:
```suggestion
  simpa [index] using ker_eq_bot.2 hf ▸ finrank_bot _ _
```

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 15]
```diff
@@ -0,0 +1,134 @@
...
+
+variable {f}
+
+public lemma index_eq_finrank_sub :
+    f.index = finrank R f.ker - finrank R (N ⧸ f.range) := by
+  rfl
+
+@[nontriviality] public lemma index_of_subsingleton [Subsingleton R] :
+    f.index = 0 := by
+  simp [index]
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/LinearMap/Index.lean]: I would say
```suggestion
  simp [index_eq_finrank_sub]
```
here and below. This makes the proof more robust under the "copy-pasting into another file" operation, which seems a clear positive.

File: Mathlib/Algebra/Module/LinearMap/Index.lean [hunk 16]
```diff
@@ -0,0 +1,134 @@
...
+  -- `0 → f.ker → (g ∘ₗ f).ker → g.ker → f.coker → (g ∘ₗ f).coker → g.coker → 0`
+  have aux : f.range ≤ comap g (g ∘ₗ f).range := by rw [← map_le_iff_le_comap, range_comp]
+  let f₀ : f.ker →ₗ[k] (g ∘ₗ f).ker := inclusion <| ker_le_ker_comp f g
+  let f₁ : (g ∘ₗ f).ker →ₗ[k] g.ker := f.restrict <| by simp
+  let f₂ : g.ker →ₗ[k] N ⧸ f.range := f.range.mkQ ∘ₗ g.ker.subtype
+  let f₃ : (N ⧸ f.range) →ₗ[k] P ⧸ (g ∘ₗ f).range := f.range.mapQ (g ∘ₗ f).range g aux
+  let f₄ : (P ⧸ (g ∘ₗ f).range) →ₗ[k] P ⧸ g.range := factor <| range_comp_le_range f g
+  have h₀ : Injective f₀ := inclusion_injective _
+  have h₁ : Exact f₀ f₁ := fun ⟨x, hx⟩ ↦ by simp [f₀, f₁, restrict_apply, inclusion_apply]
+  have h₂ : Exact f₁ f₂ := fun ⟨x, hx⟩ ↦ by aesop (add simp restrict_apply)
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/LinearMap/Index.lean]: Nit (for the first one I don't really care, but I genuinely believe the second one is better)
```suggestion
  have h₁ : Exact f₀ f₁ := by rw [exact_iff]; simp [f₀, f₁, ker_restrict, range_inclusion]
  have h₂ : Exact f₁ f₂ := by rw [exact_iff]; simp [f₁, f₂, ker_comp, map_comap_eq]
```

**Review by ADedecker — APPROVED** [review]
Thanks again!

bors d+

(In case anyone is surprised I am merging this: while I had quite precise plans for the analytical part of the Fredholm project, I don't believe I played a significant role in the design decisions here)

**Comment by ADedecker** [comment]
Please don't forget to open the follow-up PR with `deprecated_module` !

**Comment by ocfnash** [comment]
Thanks for the review!

bors merge
